US04055410
A mixture of 10.7 g of o-toluidine, 3.3 g. of paraformaldehyde, and 11.7 g of 2,4-thiazolidinedione in 100 ml of absolute ethanol was refluxed 5 hrs under nitrogen. atmosphere. On cooling, the resulting precipitate was filtered off to give 22.1 g of N-(2-methylphenylaminomethyl)-2,4-thiazolidinedione, mp 109°-111° C; identified by IR and NMR.

reactant | o-toluidine | 10.7 g | NC=1C(=CC=CC1)C | C7H9N
reactant | paraformaldehyde | C=O | CH2O
reactant | 2,4-thiazolidinedione | 11.7 g | S1C(NC(C1)=O)=O | C3H3NO2S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-(2-methylphenylaminomethyl)-2,4-thiazolidinedione | 22.1 g | CC1=C(C=CC=C1)NCN1C(SCC1=O)=O | C11H12N2O2S
